US07378375B1
4-Hydroxy-3-(2-oxiranylmethoxymethyl-6-trifluoromethylpyridine-3-carbonyl)-bicyclo[3.2.1]oct-3-en-2-one
1.5 g of 4-hydroxy-3-(2-hydroxymethyl-6-trifluoromethylpyridine-3-carbonyl)-bicyclo[3.2.1]oct-3-en-2-one are dissolved in 15 ml of dimethylformamide and, at room temperature, treated with 0.4 g of sodium hydride (80% suspension in oil, 0.013 mol), a little at a time. After 15 minutes at a temperature of 22° C., 3 ml (0.036 mol) of epibromohydrin are added dropwise, and the reaction mixture is stirred at this temperature for another 18 hours. Ethyl acetate is then added, and the mixture is acidified to pH 3 using 10% hydrochloric acid and extracted with ethyl acetate. The organic phase is dried over sodium sulfate and the crude product is purified chromatographically (mobile phase: toluene/ethyl alcohol/dioxane/triethylamine/water 100:40:20:20:5 parts by volume). This gives the title compound (triethylamine salt) in the form of a yellowish resin, which is released similarly to example H4. Trituration with hexane gives 600 mg of pure 4-hydroxy-3-(2-oxiranylmethoxy-methyl-6-trifluoromethylpyridin-3-carbonyl)bicyclo[3.2.1]oct-3-en-2-one of melting point 54-56° C.

reactant | 4-hydroxy-3-(2-hydroxymethyl-6-trifluoromethylpyridine-3-carbonyl)-bicyclo[3.2.1]oct-3-en-2-one | 1.5 g | OC1=C(C(C2CCC1C2)=O)C(=O)C=2C(=NC(=CC2)C(F)(F)F)CO | C16H14F3NO4
reactant | sodium hydride | 0.013 mol, 0.4 g | [H-].[Na+]
reactant | epibromohydrin | 0.036 mol, 3 ml | C(Br)C1CO1 | C3H5BrO
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Hydroxy-3-(2-oxiranylmethoxymethyl-6-trifluoromethylpyridine-3-carbonyl)-bicyclo[3.2.1]oct-3-en-2-one | OC1=C(C(C2CCC1C2)=O)C(=O)C=2C(=NC(=CC2)C(F)(F)F)COCC2OC2 | C19H18F3NO5
